US04503063
3-(N-Acetylcarbamoyl)-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol hemihydrate
A solution of acetyl chloride (0.12 g, 1.5 mmole) in dry acetonitrile (2 ml) was added dropwise to a stirred solution of 3-carbamoyl-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol (0.314 g., 1 mmole) and pyridine (0.12 g., 1.5 mmole) in dry acetonitrile (2 ml) at -20° C. The solution was allowed to warm to room temperature and was stirred at room temperature for a further 18 hours. The solvent was then removed under reduced pressure and the residue was partitioned between water (10 ml) and chloroform (40 ml). The organic phase was separated, dried over MgSO4 and evaporated. The residue was chromatographed on silica eluting with 10:1 (v:v) chloroform/methanol and the fractions containing the product were combined, evaporated, and recrystallized from diisopropyl ether to furnish the title compound, (67 mg., 19%), m.p. 148°-150° C.

reactant | acetyl chloride | 1.5 mmole, 0.12 g | C(C)(=O)Cl | C2H3ClO
reactant | 3-carbamoyl-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | 1 mmole, 0.314 g | C(N)(=O)CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C12H12Cl2N4O2
reactant | pyridine | 1.5 mmole, 0.12 g | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 3-(N-Acetylcarbamoyl)-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol hemihydrate | 67 mg, 19% | O.C(C)(=O)NC(=O)CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl.C(C)(=O)NC(=O)CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | InChI=1S/2C14H14Cl2N4O3.H2O/c2*1-9(21)19-13(22)5-14(23,6-20-8-17-7-18-20)11-3-2-10(15)4-12(11)16;/h2*2-4,7-8,23H,5-6H2,1H3,(H,19,21,22);1H2
